US06495693B2
Synthesis of N-[N-(benzothiazol-2-yl)-L-alanyl]-(S)-2-aminohexanoic acid methyl ester
Following General Procedure B and using 2-chlorobenzothiazole (Aldrich) and L-alanine (Aldrich), N-(benzothiazol-2-yl)-L-alanine was prepared. This compound was then coupled to L-norleucine methyl ester hydrochloride (Sigma) using General Procedure D (without the 1N HCl wash) to provide for the title compound as a solid (mp=99-120° C.). The latter reaction was monitored by tlc (Rf=0.42 in 1:1 EtOAc:Hexanes) and the product was purified by preparative plate chromatography using 1:1 EtOAc:Hexanes and 5:95 MeOH:dichloromethane as the eluent.

reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | N-(benzothiazol-2-yl)-L-alanine | S1C(=NC2=C1C=CC=C2)N[C@@H](C)C(=O)O | C10H10N2O2S
reactant | L-norleucine methyl ester hydrochloride | Cl.COC([C@@H](N)CCCC)=O
reactant | HCl | 1N | Cl | ClH
product | N-[N-(benzothiazol-2-yl)-L-alanyl]-(S)-2-aminohexanoic acid methyl ester | COC([C@H](CCCC)NC([C@@H](NC=1SC2=C(N1)C=CC=C2)C)=O)=O | C17H23N3O3S
